US05055230
6-Dodecyloxymethyl-1,4-dioxan-2-one
Prepared from the glycidyl ether of dodecanol.

reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | dodecanol | C(CCCCCCCCCCC)O | C12H26O
product | 6-Dodecyloxymethyl-1,4-dioxan-2-one | C(CCCCCCCCCCC)OCC1COCC(O1)=O | C17H32O4
